US04028376
To a mixture of 1,1-dimethyl-(3-t-butyl-5-isoxazolyl)-urea (0.70 g), anhydrous sodium acetate (0.30 g) and glacial acetic acid (3.3 ml), bromine (0.53 g) is added dropwise in 10 minutes with ice cooling and stirring and the resultant mixture is stirred for 15 minutes. The reaction mixture is poured into ice water (30 ml) and shaken with methylene chloride. The organic layer is washed with saturated aqueous sodium bicarbonate solution and then water and evaporated to remove the solvent. The residue is recrystallized from benzene to give 1,1-dimethyl-3-(3-t-butyl-4-bromo-5-isoxazolyl)urea (0.96 g) as crystals melting at 175.5° to 176.5° C. (decomp.).

reactant | 1,1-dimethyl-(3-t-butyl-5-isoxazolyl)-urea | 0.70 g | CN(C(=O)NC1=CC(=NO1)C(C)(C)C)C | C10H17N3O2
reactant | sodium acetate | 0.30 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 3.3 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 0.53 g | BrBr | Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,1-dimethyl-3-(3-t-butyl-4-bromo-5-isoxazolyl)urea | 0.96 g | CN(C(=O)NC1=C(C(=NO1)C(C)(C)C)Br)C | C10H16BrN3O2
